US08492401B2
Iron powder (55 mmol, 3.1 g) was added to a solution of 2-(2-nitrophenyl)-6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridine (11.1 mmol, 3.8 g) in CH2Cl2 (100 mL) followed by acetic acid (10 mL). The reaction mixture was heated at reflux for 3 hours then cooled to room temperature. Na2CO3 (14 g) was added in portions. The mixture was passed through a pad of celite and rinsed with CH2Cl2. The combined filtrates were washed with Na2CO3 (3×20 mL), dried (MgSO4) and concentrated under reduced pressure to give 2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)aniline (3.4 g, 98% yield) as a yellow solid.

reactant | 2-(2-nitrophenyl)-6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridine | 11.1 mmol, 3.8 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CN1CCCC1 | C17H16N4O2S
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | Na2CO3 | 14 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | Iron | 55 mmol, 3.1 g | [Fe] | Fe
product | 2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)aniline | 3.4 g, 98% yield | N1(CCCC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C17H18N4S
